US05366987
(d) (±)-4-Dodecyl-α-phenyl-1H-imidazole-1-acetic acid
Solid NaOH (0.9 g, 22.6 mmol) was added to a solution of ethyl (±)-4-dodecyl-α-phenyl-1H-imidazole-1-acetate (4.5 g, 11.3 mmol) in 150 mL 95% ethanol. The resulting solution was stirred for 2 hours and then concentrated in vacuo. The residue was partitioned between water and ether, the aqueous layer was acidified with concentrated HCl, and extracted with dichloromethane. The dichloromethane solution was dried over MgSO4, filtered, and concentrated to give a white solid (2.53 g, 55%); mp 110°-118° C.

reactant | NaOH | 22.6 mmol, 0.9 g | [OH-].[Na+]
reactant | ethyl (±)-4-dodecyl-α-phenyl-1H-imidazole-1-acetate | 11.3 mmol, 4.5 g | C(CCCCCCCCCCC)C=1N=CN(C1)C(C(=O)OCC)C1=CC=CC=C1 | C25H38N2O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | (±)-4-Dodecyl-α-phenyl-1H-imidazole-1-acetic acid | 2.53 g, 55% | C(CCCCCCCCCCC)C=1N=CN(C1)C(C(=O)O)C1=CC=CC=C1 | C23H34N2O2
